US04109088
A solution of 1.2 g. (0.004 mole) of 4-isopropyl-2-(1-oxo-4-indanyloxymethyl)morpholine in 5 ml. of anhydrous tetrahydrofuran was added gradually under ice-cooling in a nitrgen gas stream to a solution of a Grignard reagent prepared from 0.41 g. (0.017 atom) of magnesium and methyl bromide using 30 ml. of anhydrous tetrahydrofuran as a solvent and thereafter the mixture was stirred for 2 hours at room temperature. Then, to the reaction mixture was added ice water and the product was extracted thrice each with 30 ml. of methylene chloride. The organic layer was recovered, washed with water, and dried over anhydrous magnesium sulfate. Then, the solvent was distilled off under reduced pressure and the residue formed was subjected to a silica gel column chromatography (column diameter 1.5 cm., height 20 cm.), whereby 1.1 g. of 2-(1-hydroxy-1-methyl-4-indanyloxymethyl)-4-isopropyl morpholine was obtained.

reactant | 4-isopropyl-2-(1-oxo-4-indanyloxymethyl)morpholine | 0.004 mole | C(C)(C)N1CC(OCC1)C(=O)OC1=C2CCCC2=CC=C1 | C17H23NO3
reactant | magnesium | [Mg] | Mg
reactant | methyl bromide | 30 ml | CBr | CH3Br
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(1-hydroxy-1-methyl-4-indanyloxymethyl)-4-isopropyl morpholine | OC(C)(C1CN(CCO1)C(C)C)OC1=C2CCCC2=CC=C1 | C18H27NO3
